US09388176B2
Ethyl-3-(2-amino-7,8-dihydro-5H-pyrido[4,3-d]pyrimidin-6-yl)-benzoate
A solution of methyl-3-(3-dimethylaminomethylene-4-oxopiperidin-1-yl)-benzoate (1.52 g, 5.27 mmol) in EtOH (100 mL) was treated with guanidine carbonate (3.80 g, 21.08 mmol), followed by addition of sodium acetate trihydrate (5.74 g, 42.16 mmol). The reaction mixture was refluxed for 15 hours and the solvent was removed in vacuo. The residue was partitioned between water and ethyl acetate and the mixture was vigorously stirred at ambient temperature for several minutes. The yellow, amorphous precipitate was collected, washed with water, ethyl acetate, and dried to give 776 mg of the title compound. The ethyl acetate layer was dried (MgSO4), filtered, and concentrated.

reactant | methyl-3-(3-dimethylaminomethylene-4-oxopiperidin-1-yl)-benzoate | 5.27 mmol, 1.52 g | COC(C1=CC(=CC=C1)N1CC(C(CC1)=O)=CN(C)C)=O | C16H20N2O3
reactant | guanidine carbonate | 21.08 mmol, 3.80 g | C(O)(O)=O.NC(=N)N
reactant | sodium acetate trihydrate | 42.16 mmol, 5.74 g | O.O.O.C(C)(=O)[O-].[Na+]
solvent | EtOH | 100 mL | CCO | C2H6O
product | Ethyl-3-(2-amino-7,8-dihydro-5H-pyrido[4,3-d]pyrimidin-6-yl)-benzoate | 776 mg | C(C)OC(C1=CC(=CC=C1)N1CC2=C(N=C(N=C2)N)CC1)=O | C16H18N4O2
